US08729112B2
benzyl 1-fluoro-3-hydroxy-2-methylpropan-2-ylcarbamate
A solution of 2-(benzyloxycarbonylamino)-3-fluoro-2-methylpropanoic acid (1.1 g, 4.9 mmol) in THF (16 ml) was cooled to 0° C., and triethylamine (518 mg, 6.1 mmol) was added, then ethyl chloroformate (663 mg, 6.11 mmol). A solution of sodium borohydride (370 mg, 9.8 mmol) in water (4 ml) was added, and the reaction warmed to RT over 4 h. The reaction was quenched with 1 M HCl, and extracted with EtOAc. The organic layers were combined, washed with sat. NaCl, dried on Na2SO4, and concentrated in vacuo. Flash chromatography (0% to 10% MeOH in DCM) afforded the title compound as a clear oil (915 mg, 77%). 1H NMR (CDCl3, 400 MHz) δ 1.31 (s, 3H), 3.4 (br s, 1H), 3.72-3.80 (m, 2H) 4.47 (dd, J=9.6, 18.4 Hz, 1H), 4.60 (dd, J=9.2, 18.8 Hz, 1H), 5.12 (s, 2H), 5.32 (s, 1H), 7.28-7.37 (m, 5H). 19F NMR (CDCl3, 376 MHz) δ −231.2 (t, J=48.9 Hz). 13C NMR (CDCl3, 100 MHz) δ 19.2 (d, J=4 Hz), 56.8 (d, J=17 Hz), 66.4 (d, J=4 Hz), 66.9, 85 (d, J=173 Hz), 128.1, 128.3, 128.6, 128.6, 136.0, 156.0.

reactant | 2-(benzyloxycarbonylamino)-3-fluoro-2-methylpropanoic acid | 4.9 mmol, 1.1 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CF)C | C12H14FNO4
reactant | triethylamine | 6.1 mmol, 518 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.11 mmol, 663 mg | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 9.8 mmol, 370 mg | [BH4-].[Na+]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | benzyl 1-fluoro-3-hydroxy-2-methylpropan-2-ylcarbamate | 915 mg, 77% | FCC(CO)(C)NC(OCC1=CC=CC=C1)=O | C12H16FNO3
